Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / simvastatin
 
Attending: ___.
 
Chief Complaint:
tender abdominal aortic aneurysm
 
Major Surgical or Invasive Procedure:
___: EVAR with bilateral groin perclose

 
History of Present Illness:
A ___ man with abdominal aortic aneurysm which is tender 
on physical exam.  Despite the fact that it does not reach 
strict size requirements for
prophylactic repair, the fact that it is tender increases its 
risk of rupture and, therefore, the patient qualifies for 
prophylactic endograft placement.  Therefore, EVAR was offered 
to the patient and he was agreeable. He has a positive family 
history of AAA with his grandfather having died from an AAA. 
 
Past Medical History:
PMH: ___ esophagus, peripheral neuropathy, GERD, IBS

PSH: Left sided knee replacement, left radial nerve repair.
 
Social History:
___
Family History:
father died from liver/lung cancer. 
grandfather died of AAA
 
Physical Exam:
VS: T= 98.2 BP=122/60 HR=56 RR=12 O2= 97% on 2L
Gen: NAD, AOX3
Resp: Clear to auscultation
CV: RRR, no murmurs
Abd: soft non tender non distended. 
extremities: groin sites clean dry no drainage. Mild pain in the 
left groin but no signs of hematoma. 
Pulses: R:p/p/p/p L:p/p/p/p
 
Pertinent Results:
___ 04:19AM BLOOD WBC-7.2 RBC-3.23* Hgb-10.8*# Hct-31.1* 
MCV-96 MCH-33.4* MCHC-34.7 RDW-11.8 RDWSD-41.1 Plt ___
___ 04:19AM BLOOD Glucose-112* UreaN-8 Creat-0.7 Na-137 
K-4.1 Cl-105 HCO3-25 AnGap-11
___ 04:19AM BLOOD Phos-3.3 Mg-2.2
___ 02:20PM BLOOD Type-ART pO2-112* pCO2-44 pH-7.38 
calTCO2-27 Base XS-0 Intubat-NOT INTUBA
___ 02:20PM BLOOD Hgb-12.0* calcHCT-36
___ 02:20PM BLOOD freeCa-1.10*
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a tender AAA who was 
admitted to the ___ on ___. 
The patient was taken to the endovascular suite and underwent an 
endovascular abdominal aortic aneurysm repair. For details of 
the procedure, please see the surgeon's operative note. The 
patient tolerated the procedure well without complications and 
was brought to the post-anesthesia care unit in stable 
condition. After a brief stay, the patient was transferred to 
the vascular surgery floor where he remained through the rest of 
the hospitalization. 

Post-operatively, he did well without any groin swelling. He was 
able to tolerate a regular diet, get out of bed and ambulate 
without assistance, void without issues, and pain was controlled 
on oral medications alone. His only complaint being mild left 
groin pain. He reported his abdominal tenderness was much 
improved. He was deemed ready for discharge, and was given the 
appropriate discharge and follow-up instructions.

 
Medications on Admission:
1. ALPRAZolam 0.5 mg PO BID:PRN Anxiety 
2. Escitalopram Oxalate 10 mg PO QHS 
3. Gabapentin 600 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO BID:PRN Anxiety 
2. Escitalopram Oxalate 10 mg PO QHS 
3. Gabapentin 600 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth every day Disp #*30 
Tablet Refills:*1
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 to 6 hours 
Disp #*20 Tablet Refills:*0
7. Acetaminophen 650 mg PO Q6H:PRN pain 
8. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal aortic aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ and 
underwent an endovascular abdominal aortic aneurysm repair. You 
have now recovered from surgery and are ready to be discharged. 
Please follow the instructions below to continue your recovery:

MEDICATIONS:
• Take Aspirin 81mg (enteric coated) once daily 
• Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT AT HOME:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and go up and down stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

 
Followup Instructions:
___